US07754742B2
N-(4-(Hydroxymethyl)benzyl)-1-methyl-1H-imidazole-4-carboxamide
Stir a mixture of 1-methyl-1H-imidazole-4-carboxylic acid (4.0 g, 31.67 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.6 g, 34.5 mmol) and 1-hydroxybenzotriazole hydrate (5.29 g, 34.5 mmoles) in anhydrous acetonitrile (150 mL) at room temperature for 1 hr. Add to the reaction mixture (4-aminomethyl-phenyl)-methanol hydrochloride (5.0 g, 28.8 mmol) and triethylamine (8.4 mL, 60.5 mmol). Stir the reaction mixture at room temperature overnight. Quench the reaction mixture with water and extract with ethyl acetate (3×). Combine the organic layers, wash with brine, dry over sodium sulfate, and concentrate to provide the title compound (4.6 g, 18.8 mmol). MS (m/z): 246 (M+1).

reactant | 1-methyl-1H-imidazole-4-carboxylic acid | 31.67 mmol, 4.0 g | CN1C=NC(=C1)C(=O)O | C5H6N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 34.5 mmol, 6.6 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 34.5 mmoles, 5.29 g | O.ON1N=NC2=C1C=CC=C2
reactant | (4-aminomethyl-phenyl)-methanol hydrochloride | 28.8 mmol, 5.0 g | Cl.NCC1=CC=C(C=C1)CO
reactant | triethylamine | 60.5 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | N-(4-(Hydroxymethyl)benzyl)-1-methyl-1H-imidazole-4-carboxamide | 18.8 mmol, 4.6 g | OCC1=CC=C(CNC(=O)C=2N=CN(C2)C)C=C1 | C13H15N3O2
